US07750003B2
2-Methoxy-4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidin-2-yl]aniline
2-Chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidine (700 mg, 2.29 mmol) was dissolved in a solution of 18% DMF in a mixture of 7:3:2 DME:water:ethanol (7 mL). (4-Amino-3-methoxy-phenyl)boronic acid (574 mg, 3.43 mmol), 2M sodium carbonate solution (4 mL) and dichlorobis(triphenylphosphine) palladium (81 mg) was then added to the solution and refluxed at 90° C. for 1 hour. The reaction was allowed to cool to room temp then partitioned between ethyl acetate (50 mL) and water (50 mL), the organics dried over magnesium sulphate, filtered and concentrated in vacuo. The residue was dissolved in dichloromethane and filtered to remove insoluble material. The filtrates were purified using a companion.

reactant | 2-Chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidine | 2.29 mmol, 700 mg | ClC1=NC(=CC(=N1)N1[C@H](COCC1)C)CS(=O)(=O)C | C11H16ClN3O3S
reactant | water | O | H2O
reactant | (4-Amino-3-methoxy-phenyl)boronic acid | 3.43 mmol, 574 mg | NC1=C(C=C(C=C1)B(O)O)OC | C7H10BNO3
reactant | sodium carbonate | 2M, 4 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DME | COCCOC | C4H10O2
solvent | ethanol | 7 mL | C(C)O | C2H6O
product | 2-Methoxy-4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidin-2-yl]aniline | COC1=C(N)C=CC(=C1)C1=NC(=CC(=N1)N1[C@H](COCC1)C)CS(=O)(=O)C | C18H24N4O4S
